US07402672B2
3-(3-Amino-phenylsulfanyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide, Ia-16
Treat 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide 6a-1 (1.0 equiv) in DMF with bis-(3-aminophenyl)disulfide (1.1 equiv) as described in General Synthetic Procedure IVb to provide Ia-16 as an ivory colored solid. 1H NMR (DMSO-d,) δ 12.40 (bs, 1H), 8.44 (dd, 1H, J=1.5, 4.5 Hz), 8.10 (bs, 1H), 7.86 (dd, 1H, J=1.5, 8.3 Hz overlapping with bs, 1H), 7.28 (dd, 1H, J=4.5, 8.2 Hz), 7.13 (apparent t, 1H, J=7.8 Hz) 6.28 (m, 3H), 5.08 (bs, 2H); MS Obs 288.08 (M+1).

reactant | 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | N1C(=CC2=NC=CC=C21)C(=O)N | C8H7N3O
reactant | bis-(3-aminophenyl)disulfide | 1.1 equiv | NC=1C=C(C=CC1)SSC1=CC(=CC=C1)N | C12H12N2S2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(3-Amino-phenylsulfanyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | NC=1C=C(C=CC1)SC1=C(NC=2C1=NC=CC2)C(=O)N | C14H12N4OS
